US08389508B2
To a solution of ethyl (2E)-3-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]-2-propenoate (D113) (1 g, 2.239 mmol) in Methanol (20 mL) was added Pd/C. The mixture was stirred at room temperature for 1 h. After filtration, the solvent was evaporated in vacuo to afford ethyl 3-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]propanoate (D114) (1 g). MS (ES): C26H28N2O3S requires 448.2. found 449.2 (M+H+).

reactant | ethyl (2E)-3-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]-2-propenoate | 2.239 mmol, 1 g | C(#N)C=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)/C=C/C(=O)OCC)CC | C26H26N2O3S
solvent | Methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | ethyl 3-[3-(2-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,3-thiazol-5-yl)-2-ethylphenyl]propanoate | 1 g | C(#N)C=1C=C(C=CC1OC(C)C)C=1SC(=CN1)C=1C(=C(C=CC1)CCC(=O)OCC)CC | C26H28N2O3S
